US07057046B2
To a suspension of racemic 3-amino-3,4-dihydrocarbostyril hydrochloride (300 mg) in acetonitrile (20 mL) at room temperature was added aqueous sodium bicarbonate (378 mg in 5 mL of water) followed by di-t-butyl dicarbonate (425 mg). After stirring for 3 h, the solvent was removed under vacuum, and the residue was dissolved in ethyl acetate. This was washed sequentially with 1 M aqueous sodium hydroxide (60 mL) and brine (60 mL) before drying over anhydrous sodium sulfate and evaporation under vacuum to provide 3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril (413 mg), which was separated into its homochiral component enantiomers (R) and (S) 3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril by chiral normal phase preparative HPLC (Chiralcel AD column, 10% isopropanol in hexane). Analysis was by chiral normal phase analytical HPLC (Chiralcel AD column, 10% isopropanol in hexane, R isomer elutes before S isomer).

reactant | racemic 3-amino-3,4-dihydrocarbostyril hydrochloride | 300 mg | Cl.NC1C(NC2=CC=CC=C2C1)=O
reactant | sodium bicarbonate | 5 mL, 378 mg | C([O-])(O)=O.[Na+]
reactant | di-t-butyl dicarbonate | 425 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-t-butyloxycarbonylamino-3,4-dihydrocarbostyril | 413 mg | C(C)(C)(C)OC(=O)NC1C(NC2=CC=CC=C2C1)=O | C14H18N2O3
